US09403846B2
Step 3. Synthesis of 1-(1-methylcyclopropyl)but-3-en-1-ol (C52)
To a suspension of lithium aluminum hydride (7.17 g, 189 mmol) in tetrahydrofuran (200 mL) at −78° C. was added drop-wise a solution of 1-(1-methylcyclopropyl)but-3-en-1-one (C51) (15.6 g, 126 mmol) in tetrahydrofuran (100 mL). After the addition, the mixture was stirred at −78° C. for 0.5 hours. The reaction mixture was quenched with water (7 mL) at −78° C., then dichloromethane (100 mL) was added and the mixture was stirred at room temperature for 0.5 hours. The mixture was filtered, the filter cake was washed with dichloromethane (2×150 mL), and the combined filtrates were dried and concentrated in vacuo to give crude product; purification via silica gel chromatography (Gradient: 4% to 10% ethyl acetate in petroleum ether) afforded the product as a yellow oil. Yield: 12 g, 95 mmol, 76% over 2 steps. 1H NMR (400 MHz, CDCl3) δ 5.68-5.90 (m, 1H), 5.07-5.17 (m, 2H), 2.92 (dd, J=13.2, 4.4 Hz, 1H), 2.25-2.40 (m, 2H), 1.06 (s, 3H), 0.38-0.45 (m, 2H), 0.30-0.36 (m, 2H).

reactant | lithium aluminum hydride | 189 mmol, 7.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(1-methylcyclopropyl)but-3-en-1-one | 126 mmol, 15.6 g | CC1(CC1)C(CC=C)=O | C8H12O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(1-methylcyclopropyl)but-3-en-1-ol | CC1(CC1)C(CC=C)O | C8H14O
